US07906517B2
Tert-butyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[4,5-dimethoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (60 mg) is dissolved in 1,4-dioxane (1.5 ml) and thereto are added 2-bromo-6-isopropenyl-3-methoxy-pyridine (38 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane complex (7 mg) and cesium carbonate (55 mg), and the mixture is stirred under nitrogen atmosphere at 80° C. overnight. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and water, and the mixture is separated and the organic layer is filtered by NH— silica gel and the mixture is extracted with ethyl acetate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=85:15→70:30) to give tert-butyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(6-isopropenyl-3-methoxy-pyridin-2-yl)-4,5-dimethoxy-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (17 mg). MS (m/z): 734 [M+H]+

reactant | Tert-butyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[4,5-dimethoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 60 mg | C(#N)C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)OC)B2OC(C(O2)(C)C)(C)C)C=C(C1)C(F)(F)F | C36H44BF3N4O7
reactant | 2-bromo-6-isopropenyl-3-methoxy-pyridine | 38 mg | BrC1=NC(=CC=C1OC)C(=C)C | C9H10BrNO
reactant | cesium carbonate | 55 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | tert-butyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(6-isopropenyl-3-methoxy-pyridin-2-yl)-4,5-dimethoxy-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 17 mg | C(#N)C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)OC)C2=NC(=CC=C2OC)C(=C)C)C=C(C1)C(F)(F)F | C39H42F3N5O6
